US08497371B2
2-(4-{[(3-chlorophenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid (14)
Pipemidic acid (25 mg, 0.0824 mmol), 3-chlorophenyl isothiocyanate (11 μL, 0.0824 mmol) and triethylamine (23 μL, 0.165 mmol) were used. Purification on silica yielded compound 14 in Table 1, below (8.2 mg, 21%). 1H NMR (300 MHz, CDCl3) δ 9.03 (s, 1H), 8.51 (s, 1H), 7.10 (s, 1H), 7.04-6.93 (m, 2H), 6.90-6.84 (m, 1H), 4.14 (q, J=6.90 Hz, 2H), 4.00-3.74 (m, 8H), 1.23 (t, J=7.01 Hz, 3H) ppm.

reactant | Pipemidic acid | 0.0824 mmol, 25 mg | CCN1C=C(C(=O)C2=C1N=C(N=C2)N3CCNCC3)C(=O)O | C14H17N5O3
reactant | 3-chlorophenyl isothiocyanate | 0.0824 mmol, 11 μL | ClC=1C=C(C=CC1)N=C=S | C7H4ClNS
reactant | triethylamine | 0.165 mmol, 23 μL | C(C)N(CC)CC | C6H15N
product | 2-(4-{[(3-chlorophenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid | ClC=1C=C(C=CC1)NC(=S)N1CCN(CC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)O)CC | C21H21ClN6O3S
